US07504411B2
To a solution of (S)-1,4-di(t-butoxycarbonyl)-2-(4′-methoxybiphen-4-yl)-piperazine (1.46 g, 3.12 mmol) in dichloromethane (8 mL) was added 4 N hydrogen chloride in ethyl acetate (8 mL) at room temperature. After stirring for 1 h, the precipitate was collected and dried in vacuo to afford (S)-2-(4′-methoxybiphen-4-yl) piperazine dihydrochloride (1.00 g, 94%) as white solid.

reactant | (S)-1,4-di(t-butoxycarbonyl)-2-(4′-methoxybiphen-4-yl)-piperazine | 3.12 mmol, 1.46 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C27H36N2O5
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-(4′-methoxybiphen-4-yl) piperazine dihydrochloride | 1.00 g, 94% | Cl.Cl.COC1=CC=C(C2=CC=C(C=C2)[C@@H]2NCCNC2)C=C1 | InChI=1S/C17H20N2O.2ClH/c1-20-16-8-6-14(7-9-16)13-2-4-15(5-3-13)17-12-18-10-11-19-17;;/h2-9,17-19H,10-12H2,1H3;2*1H/t17-;;/m1../s1
